US04348264
2-Naphthylmethyl 1-hydroxy-2-methyl-6-[2-phenyl-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)acetamido]carbapenam-3-carboxylate (36 mg., 0.056 mmole) was dissolved in 2 ml. of dioxane. Water (1 ml.), sodium bicarbonate (4.7 mg., 0.056 mmole) and hydrogenation catalyst (36 mg. of 10% palladium on carbon) were added and the mixture was hydrogenated at 50 psig and room temperature for 30 minutes. Monitoring by tlc (9:1 acetone:water and 90:10:2 chloroform:ethanol:acetic acid) indicated that hydrogenation was incomplete. An additional 36 mg. of 10% palladium on carbon was added and hydrogenation, under the same conditions, resumed for 30 minutes, at which time tlc monitoring indicated reaction was complete. Catalyst was recovered by filtration and the filtrate freeze dried to yield sodium 1-hydroxy-2-methyl-6-[2-phenyl-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)acetamido]carbapenam-3-carboxylate [10 mg., 34%; Rf 0.3 (9:1 acetone:water; Rf 0.3 (90:10:2 chloroform:ethanol:acetic acid); ir (nujol mull) 1770, 1750, 1710 cm-1 ].

reactant | 2-Naphthylmethyl 1-hydroxy-2-methyl-6-[2-phenyl-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)acetamido]carbapenam-3-carboxylate | 0.056 mmole, 36 mg | OC1C(C(N2[C@H]1C(C2=O)NC(C(NC(=O)N2C(C(N(CC2)CC)=O)=O)C2=CC=CC=C2)=O)C(=O)OCC2=CC1=CC=CC=C1C=C2)C | C34H35N5O8
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | 0.056 mmole, 4.7 mg | C([O-])(O)=O.[Na+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | Water | 1 ml | O | H2O
product | sodium 1-hydroxy-2-methyl-6-[2-phenyl-2-(4-ethyl-2,3-dioxopiperazine-1-carboxamido)acetamido]carbapenam-3-carboxylate | OC1C(C(N2[C@H]1C(C2=O)NC(C(NC(=O)N2C(C(N(CC2)CC)=O)=O)C2=CC=CC=C2)=O)C(=O)[O-])C.[Na+] | InChI=1S/C23H27N5O8.Na/c1-3-26-9-10-27(21(33)20(26)32)23(36)25-13(12-7-5-4-6-8-12)18(30)24-14-16-17(29)11(2)15(22(34)35)28(16)19(14)31;/h4-8,11,13-17,29H,3,9-10H2,1-2H3,(H,24,30)(H,25,36)(H,34,35);/q;+1/p-1/t11?,13?,14?,15?,16-,17?;/m0./s1
